US09302991B2
<Step-1>:5-methyl-6-(2,2,3,3-tetrafluoropropoxy)nicotinic acid
The title compound is prepared in >99% yield (3.7 g, a white solid) from 6-fluoro-5-methylnicotinic acid (2.0 g, 12.9 mmol) and 2,2,3,3-tetrafluoropropan-1-ol (3.4 g, 25.8 mmol) instead of 2,2,2-trifluoroethanol by the similar manner in Step-1 of Amine-1.

reactant | 6-fluoro-5-methylnicotinic acid | 12.9 mmol, 2.0 g | FC1=NC=C(C(=O)O)C=C1C | C7H6FNO2
reactant | 2,2,3,3-tetrafluoropropan-1-ol | 25.8 mmol, 3.4 g | FC(CO)(C(F)F)F | C3H4F4O
product | 5-methyl-6-(2,2,3,3-tetrafluoropropoxy)nicotinic acid | >99% yield | CC=1C(=NC=C(C(=O)O)C1)OCC(C(F)F)(F)F | C10H9F4NO3
